US08183380B2
Step B: rac-6-Fluoro-2,3-dihydro-benzofuran-3-ylamine:
A mixture of the above described 6-fluoro-benzofuran-3-one oxime (5.38 g, 32 mmol; HPLC 1.489 min) and Raney-Nickel (2.4 g) in tetrahydrofuran (125 mL) and methanol (125 mL) was hydrogenated at 100 bar hydrogen-pressure at 50° C. for 18 h. Filtered the catalyst off, washed with methanol and tetrahydrofuran, all volatiles very removed in vacuum to give the crude product which was purified by Si—NH2 column chromatography with n-heptane/ethyl acetate to give the title compound as a light brown liquid (1.65 g, 34%, HPLC 0.367 min 100%), MS (ISP) m/e=154.0 [(M+H)+].

reactant | 6-fluoro-benzofuran-3-one oxime | 32 mmol, 5.38 g | FC1=CC2=C(C(CO2)=NO)C=C1 | C8H6FNO2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | methanol | 125 mL | CO | CH4O
catalyst | Raney-Nickel | 2.4 g | [Ni] | Ni
product | rac-6-Fluoro-2,3-dihydro-benzofuran-3-ylamine | 1.65 g | FC1=CC2=C(C(CO2)N)C=C1 | C8H8FNO
